US07579359B2
O-isopropylhydroxylamine hydrochloride (2.5 g, 1.7 eq) was added to a solution of N-(4-chloroquinolin-3-yl)propionamide (3.1 g, 1.0 eq) in ethanol (150 mL). The reaction mixture was heated at reflux for 3 hours, cooled to ambient temperature, and then concentrated under reduced pressure. The residue was partitioned between dichloromethane and aqueous saturated sodium bicarbonate. The organic layer was separated and concentrated under reduced pressure to provide 3.2 g of 2-ethyl-1-isopropoxy-1H-imidazo[4,5-c]quinoline.

reactant | O-isopropylhydroxylamine hydrochloride | 2.5 g, 1.7 eq | Cl.C(C)(C)ON
reactant | N-(4-chloroquinolin-3-yl)propionamide | 3.1 g, 1.0 eq | ClC1=C(C=NC2=CC=CC=C12)NC(CC)=O | C12H11ClN2O
solvent | ethanol | 150 mL | C(C)O | C2H6O
product | 2-ethyl-1-isopropoxy-1H-imidazo[4,5-c]quinoline | 3.2 g | C(C)C=1N(C2=C(C=NC=3C=CC=CC23)N1)OC(C)C | C15H17N3O
